US08623902B2
At 0° C. 4-chlorophenylmagnesiumbromide 0.9 molar in THF/toluene (66.7 ml, 60 mmol) was added over 15 minutes to a solution of (S)-2-(Methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester CAS 115186-37-3 (5.16 g, 20 mmol) in dry THF (50 ml). The reaction mixture was warmed to ambient temperature and stirred for another 4 hours. The reaction mixture was poured on 1N HCl/ice (150 ml) and then extracted with ethyl acetate (2×100 ml). The organic layers are washed with water (2×50 ml), saturated NaCl (50 ml) and then dried over Na2SO4. After evaporation of the solvent, the crude product (7.5 g in the form of a yellow oil) was purified by flash chromatography over silica gel 150 g, (eluent:cyclohexane/ethyl acetate 9:1) to afford 4.3 g (69.4% of theory) of (S)-2-(4-chloro-benzoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a as a white solid m.p. 117-122° C.

reactant | 4-chlorophenylmagnesiumbromide | 0.9 molar | ClC1=CC=C(C=C1)[Mg]Br
reactant | THF toluene | 60 mmol, 66.7 ml | C1CCOC1.C1(=CC=CC=C1)C
reactant | (S)-2-(Methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(N(C)OC)=O | C12H22N2O4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (S)-2-(4-chloro-benzoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.3 g, 69.4% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(C1=CC=C(C=C1)Cl)=O | C16H20ClNO3
